US08859774B2
A solution of 2-bromopyridine (182 μL, 1.82 mmol) in dry diethyl ether (10 mL) was cooled to −78° C. and butyl lithium (2.5 M in hexanes, 730 μL, 1.82 mmol) added dropwise. The mixture was stirred for 1 hour at −78° C. A solution of (R)-tert-butyl 1-(4-fluorophenyl)-4a-formyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (800 mg, 2 mmol) in dry diethyl ether (10 mL) was added dropwise and the reaction mixture was stirred for 1 hour at −78° C. The reaction mixture was stirred and warmed to 0° C. over 1 hour following which the reaction was quenched by the addition of water (10 mL). The resultant mixture was stirred for 30 minutes then extracted with dichloromethane (×2) and the combined organic phases were dried over sodium sulfate. The solids were removed by filtration, the filtrate was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (gradient: 30-50% ethyl acetate in cyclohexane) to afford the diastereoisomeric mixture (R)-tert-butyl 1-(4-fluorophenyl)-4a-(R/S)-(hydroxy(pyridin-2-yl)methyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate as a straw-coloured foam (410 mg). LCMS (Method C, ESI): RT 2.64/2.81 min, m+H=477.3.

reactant | 2-bromopyridine | 1.82 mmol, 182 μL | BrC1=NC=CC=C1 | C5H4BrN
reactant | butyl lithium | 1.82 mmol, 2.5 M, 730 μL | C(CCC)[Li]
reactant | (R)-tert-butyl 1-(4-fluorophenyl)-4a-formyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 2 mmol, 800 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C=O)C(=O)OC(C)(C)C | C22H24FN3O3
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(R/S)-(hydroxy(pyridin-2-yl)methyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 410 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(CC1(C2)[C@H](C2=NC=CC=C2)O)C(=O)OC(C)(C)C | C27H29FN4O3
